US08349826B2
33.i. 6-bromo-4-(4-methoxy-benzyl)-4H-pyrido[3,2-b][1,4]oxazin-3-one
A suspension of 6-bromo-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one (2.0 g; prepared according to WO 01/30782) in DMF (40 mL) was treated with 4-methoxybenzyl chloride (1.18 mL) and Cs2CO3 (8.5 g) and stirred at rt for 2 h. The solvent was evaporated under reduced pressure and the residue was partitioned between EA and water. The org. layer was washed with brine, dried over MgSO4 and evaporated under reduced pressure. The residue was triturated with Hept, affording a beige solid (2.8 g, 92% yield).

reactant | 6-bromo-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one | 2.0 g | BrC=1C=CC=2OCC(NC2N1)=O | C7H5BrN2O2
reactant | 4-methoxybenzyl chloride | 1.18 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Cs2CO3 | 8.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 6-bromo-4-(4-methoxy-benzyl)-4H-pyrido[3,2-b][1,4]oxazin-3-one | 2.8 g, 92% yield | BrC=1C=CC=2OCC(N(C2N1)CC1=CC=C(C=C1)OC)=O | C15H13BrN2O3
